US03953506
Preparation of 1-Methoxy-3-(1,2,3,4-tetrahydro-1-naphthyl)-thiourea ##SPC40##
To an ice-cold, stirred mixture of 0.02 mole of methoxyamine hydrochloride and methylene chloride is added 0.02 mole of triethylamine. The mixture is then allowed to warm to about 15° C. to 25° C. while a solution of 0.01 mole of 1,2,3,4-tetrahydro-1-naphthyl isothiocyanate in methylene chloride is added dropwise. The mixture is stirred overnight at room temperature and then filtered. The filtrate is washed with water, dried (sodium sulfate), and the solvent evaporated at reduced pressure to give the title compound.

reactant | methoxyamine hydrochloride | 0.02 mole | Cl.CON
reactant | triethylamine | 0.02 mole | C(C)N(CC)CC | C6H15N
reactant | 1,2,3,4-tetrahydro-1-naphthyl isothiocyanate | 0.01 mole | C1(CCCC2=CC=CC=C12)N=C=S | C11H11NS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Methoxy-3-(1,2,3,4-tetrahydro-1-naphthyl)-thiourea | CONC(=S)NC1CCCC2=CC=CC=C12 | C12H16N2OS
